US03980784
A solution of 3.5 g. of phenylsulfonyl chloride in 20 m. of anhydrous acetonitrile was added to a solution of 6.4 g. of 4-nitro-2,6-bis(trifluoromethyl)benzimidazole, sodium salt in 50 ml. of anhydrous acetonitrile. The mixture was stirred at room temperature for 2 hours, and the reaction mixture was filtered. The filtrate was evaporated to dryness under vacuum, and the residue was recrystallized from benzenepentane to yield 4-nitro-1-phenylsulfonyl-2,6-bis(trifluoromethyl)benzimidazole, m.p. 183°-185°C.

reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-nitro-2,6-bis(trifluoromethyl)benzimidazole | [N+](=O)([O-])C1=CC(=CC=2N=C(NC21)C(F)(F)F)C(F)(F)F | C9H3F6N3O2
reactant | sodium | [Na] | Na
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-nitro-1-phenylsulfonyl-2,6-bis(trifluoromethyl)benzimidazole | [N+](=O)([O-])C1=CC(=CC=2N(C(=NC21)C(F)(F)F)S(=O)(=O)C2=CC=CC=C2)C(F)(F)F | C15H7F6N3O4S
